US05118682
206.5 g (1.69 mol) of 3,5-dimethylphenol and 337.3 g (3.30 mol) of acetic anhydride were refluxed for 1 h and then stirred at RT overnight. The mixture was poured onto water and extracted with methylene chloride. The organic phase was washed with sodium hydroxide solution and water, dried and concentrated under reduced pres-sure. 286 g of 3,5-dimethylphenyl acetate were obtained.

reactant | 3,5-dimethylphenol | 1.69 mol, 206.5 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | acetic anhydride | 3.30 mol, 337.3 g | C(C)(=O)OC(C)=O | C4H6O3
product | 3,5-dimethylphenyl acetate | 286 g | C(C)(=O)OC1=CC(=CC(=C1)C)C | C10H12O2
